US07612075B2
B. 2-{4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-2-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester
To a solution of 2-(2-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.10 g, 0.30 mmol) in acetonitrile (5 mL) is added 4-(5-chloro-thiophen-2-yl)-benzaldehyde (0.067 g, 0.30 mmol) followed by triacetoxyborohydride (0.13 g, 0.60 mmol) and glacial acetic acid (1 drop). The resulting mixture is stirred at room temperature overnight then poured into EtOAc and washed with water (×2) and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness then purified by column chromatography using EtOAc as the eluent to yield the title compound (0.90 g, 0.17 mmol). ESI MS [M+H]+=537.

reactant | 2-(2-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CNCC2)=O | C17H22N4O3
reactant | 4-(5-chloro-thiophen-2-yl)-benzaldehyde | 0.30 mmol, 0.067 g | ClC1=CC=C(S1)C1=CC=C(C=O)C=C1 | C11H7ClOS
reactant | triacetoxyborohydride | 0.60 mmol, 0.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 2-{4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-2-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 0.90 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)CC2=CC=C(C=C2)C=2SC(=CC2)Cl)=O | C28H29ClN4O3S
